data/mechanisms/records/IMS8-EQ8.62.json
{"mechanism_id": "IMS8-EQ8.62", "species": [{"species_id": "dimethyltetrahydropyran_molecular_ion", "mapped_smiles": "[CH3:7][C:2]1([CH3:8])[CH2:3][CH2:4][CH2:5][CH2:6][O+:1]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "alkyl_tetrahydropyrylium", "mapped_smiles": "[CH3:7][C:2]1=[O+:1][CH2:6][CH2:5][CH2:4][CH2:3]1", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "r_prime_radical", "mapped_smiles": "[CH3:8]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acylium_ion", "mapped_smiles": "[CH3:7][C:2]#[O+:1]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "cyclobutane_neutral", "mapped_smiles": "[CH2:3]1[CH2:4][CH2:5][CH2:6]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["dimethyltetrahydropyran_molecular_ion"]}, {"state_id": "state_pyrylium", "species_ids": ["alkyl_tetrahydropyrylium", "r_prime_radical"]}, {"state_id": "state_products", "species_ids": ["acylium_ion", "cyclobutane_neutral", "r_prime_radical"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_pyrylium", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 8]}, "target": {"type": "atom", "atom_maps": [8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_ring_co_cleavage", "from_state": "state_pyrylium", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "bond", "atom_maps": [3, 6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha_8_62", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 186, "equation": "8.62", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures (two bonds cleaved)"}, "confidence": 0.85, "curator_note": "GENERIC SCHEME, INSTANTIATED. The page draws a 2,2-disubstituted tetrahydropyran with the substituents written only as R and R'; no m/z and no intensity are printed anywhere in this equation. It is instantiated here as R = R' = CH3 (2,2-dimethyltetrahydropyran, M+. m/z 114.1039) purely so that the record carries a parseable structure - every mass in this record is curator-computed from that choice, not measured. The precursor mapped_smiles localizes charge and odd electron on the ring oxygen exactly as the printed '+.' does (O+ with two sigma bonds carries the one unpaired electron). Book draws 2 arc(s); moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). Drawn arc 1 = a fishhook from the odd electron on O(1) into the O(1)-C(2) bond; drawn arc 2 = a fishhook from the exocyclic C(2)-R'(8) bond into that same O(1)-C(2) bond, which rises from single to double (cyclic oxocarbenium = 2-alkyltetrahydropyrylium). The undrawn move 3 puts the second electron of the cleaved C(2)-R' bond on R'; the book instead writes '- R'.' under the reaction arrow. Map numbers: 1 = ring O, 2 = C2, 3-6 = ring C3..C6 (C6 is the CH2 bonded to O), 7 = R (retained on the acylium), 8 = R' (expelled)."}, {"evidence_id": "evidence_step_cleavage_8_62", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_ring_co_cleavage", "support_type": "textbook_proposed", "locator": {"page": 186, "equation": "8.62", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures (two bonds cleaved)"}, "confidence": 0.8, "curator_note": "Book draws 2 arc(s) on the tetrahydropyrylium structure; moves <1,2> are both drawn and no implicit hook is needed - this is an even-electron, charge-site-driven flow and both arrowheads on the page are full (double-barbed) heads, hence electron_count 2. Drawn arc 1 starts on the ring C(2)-C(3) bond and points at the C(2)=O(1) bond, raising it to the acylium triple bond; drawn arc 2 starts on the ring O(1)-C(6) bond and points down-left into the interior of the ring, i.e. at the TRANSANNULAR C(3)-C(6) bond it creates. That new C-C bond is what turns the four remaining ring carbons into the plain square drawn as the neutral product: in skeletal notation the square is cyclobutane (C4H8), and the accompanying text describes the step as the 2-alkyltetrahydropyrylium ion 'dissociating at the C-O ring bond, yielding a stable acylium ion' (also cross-referenced to Equation 8.51; Zahorszky 1982). The reaction arrow itself carries NO letter label on the page; step_class is set to inductive_cleavage because the flow is initiated at the charge site, and that inference (not a printed label) is disclosed here. No m/z or abundance is printed for either product, so both are detected=false and the acylium peak is status 'inferred'."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 114.1039, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_acylium", "species_id": "acylium_ion", "step_id": "step_ring_co_cleavage", "observed_mz": 43.0178, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
